US09260397B2
1-hexyl-3-mesitylimidazolium hexafluorophosphate
According to the general synthesis procedure, 1.42 mmol (0.500 g) 1-hexyl-3-mesityl imidazolium bromide and 1.57 mmol (0.260 g) ammonium hexafluorophosphate are dissolved in a mixture of 8 ml water and 2 ml methanol and stirred at room temperature.

reactant | 1-hexyl-3-mesityl imidazolium bromide | 1.42 mmol, 0.500 g | [Br-].C(CCCCC)[N+]1=CN(C=C1)C1=C(C=C(C=C1C)C)C
reactant | ammonium hexafluorophosphate | 1.57 mmol, 0.260 g | F[P-](F)(F)(F)(F)F.[NH4+]
solvent | water | 8 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 1-hexyl-3-mesitylimidazolium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C(CCCCC)[N+]1=CN(C=C1)C1=C(C=C(C=C1C)C)C | InChI=1S/C18H27N2.F6P/c1-5-6-7-8-9-19-10-11-20(14-19)18-16(3)12-15(2)13-17(18)4;1-7(2,3,4,5)6/h10-14H,5-9H2,1-4H3;/q+1;-1
